US05107013
2-Acetyl-6-methoxynaphthalene
42 Ml of β-naphthol and 16.2 g of anhydrous aluminum chloride are added to the solution of 2-acetyl-5-bromo-6-methoxynaphthalene obtained as in example 1a), while keeping the temperature at -10° C. The reaction mixture is kept for 48 hours under stirring at room temperature and then it is worked as in example 1 with the only difference that the product is crystallized by isopropyl alcohol. 19 Grams of product are obtained with a yield equal to 38.7% calculated on the basis of the starting material 1-bromo-2-methoxynaphthalene.

reactant | β-naphthol | C1=C(C=CC2=CC=CC=C12)O | C10H8O
reactant | aluminum chloride | 16.2 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2-acetyl-5-bromo-6-methoxynaphthalene | C(C)(=O)C1=CC2=CC=C(C(=C2C=C1)Br)OC | C13H11BrO2
reactant | 1-bromo-2-methoxynaphthalene | BrC1=C(C=CC2=CC=CC=C12)OC | C11H9BrO
product | 2-Acetyl-6-methoxynaphthalene | C(C)(=O)C1=CC2=CC=C(C=C2C=C1)OC | C13H12O2
